US05972376
Single Layer TTS with Tacrine/Selegiline
tacrine and selegiline base are dissolved in ethanol. The solution obtained is added to a solution of acrylate adhesive (e.g. Duro-Tak® such as Duro-Tak® 326-1753; National Starch & Chemicals) in ethyl acetate and n-hexane and, optionally, it can be mixed with further auxiliary agents. Subsequently, the solution is applied by means of a doctor blade onto a siliconised polyester film as peel-off film (e.g. Hostaphan®, Hoechst) with a wet layer thickness of 450 μm and dried for 1 hour at 50° C. The dried layer is laminated with a polyester film (or any other suitable covering film). Using a punch, TTS with a surface area of 10, 20, 30 and 40 cm2 are punched from the laminate.

reactant | tacrine | C=1C=CC=2C(C1)=C(C3=C(N2)CCCC3)N | C13H14N2
reactant | selegiline | C[C@H](CC=1C=CC=CC1)N(C)CC#C | C13H17N
reactant | acrylate | C(C=C)(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | Tacrine Selegiline | C=1C=CC=2C(C1)=C(C3=C(N2)CCCC3)N.C[C@H](CC=1C=CC=CC1)N(C)CC#C | InChI=1S/C13H14N2.C13H17N/c14-13-9-5-1-3-7-11(9)15-12-8-4-2-6-10(12)13;1-4-10-14(3)12(2)11-13-8-6-5-7-9-13/h1,3,5,7H,2,4,6,8H2,(H2,14,15);1,5-9,12H,10-11H2,2-3H3/t;12-/m.1/s1
